US06271410B1
Preparation of n-Propyl Cyanoacetate
Cyanoacetic acid (85.5 g; 1.0 mol), 1-propanol (120 g; 2.0 mol) and p-toluenesulfonic acid monohydrate (1.00 g; 0.005 mol) were introduced into a 500 ml flask. The mixture was slowly heated to a maximum of 105° C. while collecting distillates at 88-90° C. The pressure was reduced so that the flask was maintained at 105-110° C. and the distillates were collected continuously, and the propanol was returned to the flask. After distilling off the unreacted propanol, the n-propyl cyanoacetate (bp 100° C./23 mm Hg) was collected as a clear liquid. The yield was 122 g (96% of theoretical) and its purity was >99% (GC assay).

reactant | Cyanoacetic acid | 1.0 mol, 85.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | 1-propanol | 2.0 mol, 120 g | C(CC)O | C3H8O
reactant | p-toluenesulfonic acid monohydrate | 0.005 mol, 1.00 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | n-Propyl Cyanoacetate | C(#N)CC(=O)OCCC | C6H9NO2
